US04988723
A solution of sodium hydroxide (0.672 g) in water (16 ml) was added dropwise to a stirred solution of (3R,4S)-4-{(2S)-2-benzyloxycarbonylaminopropionyloxy}-3-bromo-3,4-dihydro-2,2-dimethyl-2H-1-benzopyran-6-carbonitrile (3.896 g) in 1,4-dioxane (24 ml). After being stirred at ambient temperature for 1 hour, the mixture was poured into ice-water and extracted with ethyl acetate. The extract was washed with water, dried over magnesium sulfate, and evaporated in vacuo. The crystalline residue was washed with isopropyl ether and dried to give (3S,4S)-3,4-epoxy-3,4-dihydro-2,2-dimethyl-2H-1-benzopyran-6-carbonitrile (1.401 g).

reactant | sodium hydroxide | 0.672 g | [OH-].[Na+]
reactant | (3R,4S)-4-{(2S)-2-benzyloxycarbonylaminopropionyloxy}-3-bromo-3,4-dihydro-2,2-dimethyl-2H-1-benzopyran-6-carbonitrile | 3.896 g | C(C1=CC=CC=C1)OC(=O)N[C@H](C(=O)O[C@@H]1[C@H](C(OC2=C1C=C(C=C2)C#N)(C)C)Br)C | C23H23BrN2O5
solvent | water | 16 ml | O | H2O
solvent | 1,4-dioxane | 24 ml | O1CCOCC1 | C4H8O2
product | (3S,4S)-3,4-epoxy-3,4-dihydro-2,2-dimethyl-2H-1-benzopyran-6-carbonitrile | 1.401 g | O1[C@@H]2C(OC3=C([C@@H]21)C=C(C=C3)C#N)(C)C | C12H11NO2
